US06248713B1
4-Phenylureidophenylacetic acid was prepared using procedure C with 4-amino-phenylacetic acid and phenyl isocyanate: 1H NMR (CD3SOCD3, 300 MHz, ppm) 8.72-8.64 (m, 2H), 7.44 (d, 2H), 7.36 (d, 2H), 7.28 (d, 2H), 7.16 (d, 2H), 6.96 (t, 1H), 3.52 (s, 2H); m/z 272.

reactant | 4-amino-phenylacetic acid | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 4-Phenylureidophenylacetic acid | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)O)=O | C15H14N2O3
